US05998673
Preparation of 1-[1-(p-Chlorophenyl)-2-methoxyvinyl]cyclopropane, (E)- and (Z)-
A solution of methoxymethyl triphenyl phosphonium chloride (20.5 g, 0.060 mol) in ether is cooled to -60° C., treated with a 2.5M solution of butyllithium in hexanes (25.2 mL, 0.063 mol), warmed to and stirred at 0-5° C. for 90 minutes, recooled to -60° C., treated with a solution of 4-chlorophenyl cyclopropyl ketone (9.03 g, 0.050 mol) in ether, warmed to and stirred at room temperature overnight, quenched with ethyl acetate and 2N hydrochloric acid, and extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water, 2N hydrochloric acid and water, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and an ethyl acetate/hexanes solution (1:9) gives the title product as an oil (6.2 g, 60%).

reactant | methoxymethyl triphenyl phosphonium chloride | 0.060 mol, 20.5 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | C(CCC)[Li]
reactant | 4-chlorophenyl cyclopropyl ketone | 0.050 mol, 9.03 g | C1(CC1)C(=O)C1=CC=C(C=C1)Cl | C10H9ClO
solvent | ether | CCOCC | C4H10O
product | 1-[1-(p-Chlorophenyl)-2-methoxyvinyl]cyclopropane | 6.2 g, 60% | ClC1=CC=C(C=C1)C(=COC)C1CC1 | C12H13ClO
